US04088655
2-Nitropropane 89 g (1 mole) and 37% formaldehyde 88 g (1 mole) were mixed together and heated to 65° C. There was then added dropwise Oxazolidine A 101 g (1 mole) and after the addition was complete, heating of the reaction mixture at 60°-70° C was continued for 2 hours. Water was then removed by distillation at about 8-12 mm Hg pressure. There was obtained N-(2-methyl-2-nitropropyl)-4,4-dimethyl-1,3-oxazolidine. It analyzed carbon 53.65% (calc. 53.47), hydrogen 9.07% (calc. 8.98) and nitrogen 13.47% (calc. 13.87). The compound was effective against bacteria and fungi at a concentration of 500 μg/ml or less as shown in Table 1.

reactant | 2-Nitropropane | 1 mole, 89 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | formaldehyde | 1 mole, 88 g | C=O | CH2O
reactant | Oxazolidine A | 1 mole, 101 g | CC1(COCN1)C | C5H11NO
product | N-(2-methyl-2-nitropropyl)-4,4-dimethyl-1,3-oxazolidine | CC(CN1COCC1(C)C)(C)[N+](=O)[O-] | C9H18N2O3
